US07692045B2
The hydrogenation of polyenes to monoenes over homogeneous Ru catalysts with addition of water is described, for example, in U.S. Pat. No. 5,180,870. In example 2 of this document, a cyclododecatriene conversion of 98.4% is attained after a reaction time of 4 h with addition of water. What cyclododecene yield is obtained is not stated. In example 1 of this document, only an unsatisfactory conversion of 85.8% is attained with addition of somewhat less water than in example 2 after a reaction time of 8 h.

reactant | cyclododecatriene | C1=CC=CC=CCCCCCC1 | C12H18
solvent | water | O | H2O
product | cyclododecene | C1=CCCCCCCCCCC1 | C12H22
